US06159990
To a solution of (S)-(+)-2-Phenylglycinol(1.40 g, 10 mmol) in 1N KOH/H2O (10 ml) at room temperature, was added carbon disulfide (3 ml, 50 mmol). The resulting solution was heated by a pre-heated oil-bath (110° C.) to reflux for 20 h after which the reaction mixture was cooled to room temperature and extracted with CH2Cl2 (3×30 ml), dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by column chromatography over silica gel with 1:1 hexane/CH2Cl2 followed by CH2Cl2 as the eluting system (Rf =0.09, CH2Cl2 :hexane=7:3) to obtain 4(S)-phenyl-thiazolidine-2-thione (170 mg, 9%).

reactant | (S)-(+)-2-Phenylglycinol | 10 mmol, 1.40 g | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
reactant | carbon disulfide | 50 mmol, 3 ml | C(=S)=S | CS2
solvent | KOH H2O | 1N, 10 ml | [OH-].[K+].O
product | 4(S)-phenyl-thiazolidine-2-thione | 170 mg, 9% | C1(=CC=CC=C1)[C@@H]1NC(SC1)=S | C9H9NS2
